US07279486B2
Step 1. 2,4-Difluoro-3-(hydroxymethyl)phenol
To a stirred solution of tert-butyl(2,4-difluorophenoxy)dimethylsilane (J. Med. Chem. 1993, 36, 3947., 1.50 g, 6.14 mmol) in tetrahydrofuran (30 mL) was added a 1.57 M solution of n-butyllithium in hexane (4.69 mL, 7.37 mmol) at −78° C. over 10 minutes, and the mixture was stirred at −78° C. for 2 h. To the mixture, N,N-dimethylformamide (0.950 mL, 2.28 mmol) was added at −78° C. The mixture was stirred at −78° C. for 1 h, allowed to warm to room temperature and stand at room temperature for 16 h. The mixture was diluted with methanol (20 mL), and to the mixture was added sodium borohydride (696 mg, 18.4 mmol) at 0° C. The mixture was stirred at room temperature for 1.5 h. The reaction was quenched by addition of aqueous ammonium chloride at 0° C. to be pH=7. The mixture was extracted with diethyl ether (200 mL) and the organic layer was washed with brine, dried over magnesium sulfate and evapolated. The residue was purified by column chromatography on silica gel (100 g) eluting with hexane/ethyl acetate (2/1) to afford 410 mg (42%) of the title as a colorless oil:

reactant | tert-butyl(2,4-difluorophenoxy)dimethylsilane | 6.14 mmol, 1.50 g | C(C)(C)(C)[Si](C)(C)OC1=C(C=C(C=C1)F)F | C12H18F2OSi
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 7.37 mmol, 4.69 mL | CCCCCC | C6H14
reactant | N,N-dimethylformamide | 2.28 mmol, 0.950 mL | CN(C=O)C | C3H7NO
reactant | sodium borohydride | 18.4 mmol, 696 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
product | 2,4-Difluoro-3-(hydroxymethyl)phenol | FC1=C(C=CC(=C1CO)F)O | C7H6F2O2
